US05800734
535 ml of diethylaminosulphur trifluoride (DAST) were added dropwise in 3 portions over 60 hours to a solution of 0.63 g of 4-(2,6-difluoro-4-propylphenyl)cyclohexanone in 15 ml of dimethoxyethane and 50 ml of trifluoromethanesulphonic acid. The reaction solution was subsequently partitioned between sodium carbonate solution and ether. The organic phase was washed twice with water and the aqueous phases were individually extracted twice with ether. The organic phases were combined, dried over magnesium sulfate, filtered and the filtrate was evaporated completely. The resulting crude product (0.8 g) was purified by chromatography and gave 0.36 g of 1-fluoro-4-(2,6-difluoro-4-propylphenyl)cyclohex-1-ene, m.p. (C/I) 62.5° C.

reactant | diethylaminosulphur trifluoride | 535 ml | C(C)N(CC)S(F)(F)F | C4H10F3NS
reactant | 4-(2,6-difluoro-4-propylphenyl)cyclohexanone | 0.63 g | FC1=C(C(=CC(=C1)CCC)F)C1CCC(CC1)=O | C15H18F2O
solvent | dimethoxyethane | 15 ml | C(OC)COC | C4H10O2
solvent | trifluoromethanesulphonic acid | 50 ml | FC(S(=O)(=O)O)(F)F | CHF3O3S
product | 1-fluoro-4-(2,6-difluoro-4-propylphenyl)cyclohex-1-ene | 0.36 g | FC1=CCC(CC1)C1=C(C=C(C=C1F)CCC)F | C15H17F3
